US09212186B2
Step 1—(((2R)-2-(but-3-yn-2-yloxy)propoxy)methyl)benzene
To a suspension of sodium hydride (60 wt % dispersion in mineral oil) (1380 mg, 34.6 mmol) in tetrahydrofuran (100 mL) cooled to 0° C. was added (2R)-1-benzyloxypropan-2-ol (5.00 g, 30.1 mmol) dropwise. The solution was stirred at 0° C. for 1 h then 1-methylprop-2-ynyl methanesulfonate (4780 mg, 32.3 mmol) was added dropwise and the reaction mixture was allowed to warm to room temp and stirred overnight. The reaction mixture was quenched by the addition of sat. aq. ammonium chloride and extracted with EtOAc. The combined organics were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue was adsorbed onto silica and purified by column chromatography (0-20% EtOAc in Heptane) to afford the title compound as a yellow oil (2.36 g, 36%, mixture of diastereomers).

reactant | sodium hydride | 34.6 mmol, 1380 mg | [H-].[Na+]
reactant | (2R)-1-benzyloxypropan-2-ol | 30.1 mmol, 5.00 g | C(C1=CC=CC=C1)OC[C@@H](C)O | C10H14O2
reactant | 1-methylprop-2-ynyl methanesulfonate | 32.3 mmol, 4780 mg | CS(=O)(=O)OC(C#C)C | C5H8O3S
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1—(((2R)-2-(but-3-yn-2-yloxy)propoxy)methyl)benzene | 2.36 g, 36% | CC(C#C)O[C@@H](COCC1=CC=CC=C1)C | C14H18O2
